US08236963B2
[5′-chloro-1-(5-chloro-2-fluorobenzyl)-2,2′,5-trioxospiro[imidazolidine-4,3′-indol]-1′(2′H)-yl]acetic acid
An ice-cold solution of tert-butyl [5′-chloro-1-(5-chloro-2-fluorobenzyl)-2,2′,5-trioxospiro[imidazolidine-4,3′-indol]-1′(2′H)-yl]acetate (168.00 mg; 0.33 mmol) in DCM (4.00 ml) was treated with trifluoroacetic acid (1.00 ml). After stirring for 4 hours the reaction the solvents were evaporated. Toluene was added twice and evaporated to give the titla compound as a beige solid in 67.5% yield (96.1% purity by HPLC). MS (ESI+): 452.1; MS (ESI−): 454.4

reactant | tert-butyl [5′-chloro-1-(5-chloro-2-fluorobenzyl)-2,2′,5-trioxospiro[imidazolidine-4,3′-indol]-1′(2′H)-yl]acetate | 0.33 mmol, 168.00 mg | ClC=1C=C2C3(C(N(C2=CC1)CC(=O)OC(C)(C)C)=O)NC(N(C3=O)CC3=C(C=CC(=C3)Cl)F)=O | C23H20Cl2FN3O5
reactant | trifluoroacetic acid | 1.00 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 4.00 ml | C(Cl)Cl | CH2Cl2
product | [5′-chloro-1-(5-chloro-2-fluorobenzyl)-2,2′,5-trioxospiro[imidazolidine-4,3′-indol]-1′(2′H)-yl]acetic acid | 67.5% yield | ClC=1C=C2C3(C(N(C2=CC1)CC(=O)O)=O)NC(N(C3=O)CC3=C(C=CC(=C3)Cl)F)=O | C19H12Cl2FN3O5
